US07238724B2
4-Amino-4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-5′-carbonitrile
A solution of (5′-cyano-4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-yl)-carbamic acid benzyl ester (93 mg) and trimethylsilyliodide (62 μL) in acetonitrile (1.5 mL) was heated to 45° C. for 20 minutes. The reaction mixture was cooled and concentrated under reduced pressure. The crude reaction mixture was purified by chromatography (silica gel, eluting with a gradient of 2% MeOH/CH2Cl2/0.1% NH4OH to 6% MeOH/CH2Cl2/0.1% NH4OH) to provide the titled compound (43 mg) as a yellow foam. MS (CI) m/z 217 (M+1)+; 1H NMR (300 MHz, DMSO) δ ppm 8.44 (s, 1H), 7.77 (d, 1H), 6.91 (d, 1H), 3.86-3.78 (m, 2H), 3.59-3.55 (m, 2H), 1.48-1.38 (m, 4H), 1.08 (s, 3H).

reactant | (5′-cyano-4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-4-yl)-carbamic acid benzyl ester | 93 mg | C(C1=CC=CC=C1)OC(NC1(CCN(CC1)C1=NC=C(C=C1)C#N)C)=O | C20H22N4O2
reactant | trimethylsilyliodide | 62 μL | C[Si](C)(C)I | C3H9ISi
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 4-Amino-4-methyl-3,4,5,6-tetrahydro-2H-(1,2′)bipyridinyl-5′-carbonitrile | 43 mg | NC1(CCN(CC1)C1=NC=C(C=C1)C#N)C | C12H16N4
